US04769378
8-chloro-5-(4-chlorophenyl)-5-fluoro-5H-indeno[1,2-d]pyrimidine
A mixture of 3.0 g of 8-chloro-5-(4-chlorophenyl)-5H-indeno[1,2-d]pyrimidin-5-ol in 50 ml of methylene chloride was cooled to 0° C. under a nitrogen atmosphere. Approximately 2.7 g of diethylaminosulfur trifluoride were added and the reaction was stirred overnight. The mixture was poured into an iced solution of potassium bicarbonate and extracted with ethyl acetate. The organic extract was washed with a sodium bicarbonate solution and a sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. Crystallization from ethyl acetate/isooctane provided 2.29 g of the desired title product, m.p. 236°-237° C.

reactant | 8-chloro-5-(4-chlorophenyl)-5H-indeno[1,2-d]pyrimidin-5-ol | 3.0 g | ClC1=CC=C2C(C3=C(N=CN=C3)C2=C1)(O)C1=CC=C(C=C1)Cl | C17H10Cl2N2O
reactant | diethylaminosulfur trifluoride | 2.7 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 8-chloro-5-(4-chlorophenyl)-5-fluoro-5H-indeno[1,2-d]pyrimidine | 2.29 g | ClC1=CC=C2C(C3=C(N=CN=C3)C2=C1)(F)C1=CC=C(C=C1)Cl | C17H9Cl2FN2
